Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
Admission Labs

___ 12:50PM BLOOD WBC-23.0* RBC-7.22* Hgb-19.5* Hct-59.3* 
MCV-82 MCH-27.0 MCHC-32.9 RDW-16.7* RDWSD-41.7 Plt ___
___ 12:50PM BLOOD Glucose-160* UreaN-10 Creat-1.4* Na-139 
K-8.1* Cl-104 HCO3-17* AnGap-18
___ 12:50PM BLOOD ALT-105* AST-147* CK(CPK)-472* 
AlkPhos-36* TotBili-0.8
___ 12:50PM BLOOD Albumin-3.9 Calcium-9.5 Phos-4.4 Mg-2.1
___ 02:14PM BLOOD Glucose-166* Lactate-4.9* Creat-1.10 
Na-139 K-4.9 Cl-108

CT PE
. No pulmonary embolism or acute aortic pathology.
2. Nonobstructing 5 mm calculus in the lower pole of the left 
kidney.
3. 1 cm hypodense lesion in hepatic segment 4A is incompletely 
characterized,
but favored to likely represent a hemangioma.
4. 4 mm nodule in the right lower lobe is nonspecific but may 
represent be
inflammatory etiology and is benign in this age group.  No 
specific imaging
follow-up requirement is needed.

TTE ___:
EF 71%; NORMAL STUDY
 
Brief Hospital Course:
Mr. ___ is a ___ male with
unknown past medical history presents with syncope.
Admission labs notable for elevated hemoglobin, WBC, platelets,
all improved with hydration, elevated lactate.

He now feels head heaviness and vertigo symtoms.  

ACUTE/ACTIVE PROBLEMS:
#Syncope:  He was monitored on telemetry for ___ without events 
noted except for intermittent sinus tachycardia, history
suggestive of vagal syncope, or syncope due to volume depletion,
and not not due to arrhythmia. TTE was normal. Orthostatics were 
negative. Troponin was normal. Suspect possible component of 
rhabdomyolysis vs. viral infection given mildly elevated CK 
(472) and AST/ALT, that were downtrending by discharge, as well 
as some hyaline casts on U/A .  Presence of antecedent rash
also raises possibility of IgE mediated allergy.  

#Erythrocytosis:  Checking erythropoietin level, denies 
pruritus,
symptoms in shower, no splenomegaly on exam, all making primary
polycytheymia less likely. 

#Dizziness:  Unclear cause, he denies anxiety, trialed low dose
meclizine with improvement in symptoms. 

#
###################
TRANSITIONAL ISSUES:
[ ] repeat CBC to ensure resolution of leukocytosis
[ ] repeat hemoglobin to ensure that his hemoglobin remains 
within the normal range (was elevated on admission but may have 
been spurious)
[ ] f/u erythropoietin level
[ ] repeat LFTs to ensure resolution of ALT elevation (AST 
elevation had already resolved and ALT was downtrending).
[ ] repeat TSH w/ free T4, given that TSH was borderline 
elevated which may be in the context of an acute illness.
[ ] f/u final blood cultures from ___
##################
>30 minutes spent on discharge planning and ___ coordination on 
the day of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with dizziness.  Your CT scan and ECHO 
(ultrasound of the heart) of your heart do not show a cause for 
your symptoms.  It is important that you followup on ___ to 
review pending results and to see how you are doing.  
 
Followup Instructions:
___